US08859561B2
To a solution of 7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine (70 mg, 0.32 mmol) in DMF (1 mL) was added a suspension of NaH (40.0 mg, 0.986 mmol) in DMF (1 mL). After stirring for 5 min at RT, a solution of 2-chloro-1-(piperidin-1-yl)ethanone (159 mg, 0.986 mmol) in DMF (1 mL) was added dropwise into the reaction mixture and stiffing continued for another 3 h. The progress of reaction was monitored by TLC and NMR. The reaction mixture was diluted with ice-water (20 mL) and extracted with EtOAc (3×25 mL). The organic layer was washed with water (3×20 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude material, which was purified by silica gel flash chromatography (10% MeOH-DCM) to yield 1-(piperidin-1-yl)-2-(8,9,9a,10-tetrahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizin-11(7H)-yl)ethanone;

reactant | 7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine | 0.32 mmol, 70 mg | N1=CC=CC2=C1NC1=C2CN2CCCC2C1 | C13H15N3
reactant | NaH | 0.986 mmol, 40.0 mg | [H-].[Na+]
reactant | 2-chloro-1-(piperidin-1-yl)ethanone | 0.986 mmol, 159 mg | ClCC(=O)N1CCCCC1 | C7H12ClNO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(piperidin-1-yl)-2-(8,9,9a,10-tetrahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizin-11(7H)-yl)ethanone | N1(CCCCC1)C(CN1C2=C(C=3CN4CCCC4CC31)C=CC=N2)=O | C20H26N4O
